US05468748
9-Hydroxy-9H-indeno[1,2-b]pyrazine-2,3(1H,4H)-dione
To a stirred suspension of 9H-indeno[1,2-b]pyrazine-2,3,9(1H,4H)-trione. 1H2O (5.0 g, 21.5 mmol) in 200 ml of ethanol and 30 ml of water was added sodium borohydride (1.76 g, 46.5 mmol) in four portions over 2 hours, then 200 ml of water was added and the mixture was stirred for 18 hours at room temperature. The reaction mixture was acidified with hydrochloric acid (70 ml, 1N) to pH 1.5 and the precipitate was filtered off, washed with water and dried to give 4.59 g (91%) of the title compound. M.p. >300° C. 1H-NMR (DMSO-d6, δ): 5.1 (d, 1H), 5.72 (d, 1H), 7.15 (t, 1H), 7.28 (t, 1H), 7.41 (d, 1H), 7.48 (d, 1H), 12.0 (s, 1H), 12.25 (s, 1H).

reactant | 9H-indeno[1,2-b]pyrazine-2,3,9(1H,4H)-trione | N1C2=C(NC(C1=O)=O)C=1C=CC=CC1C2=O | C11H6N2O3
reactant | water | 30 ml | O | H2O
reactant | sodium borohydride | 46.5 mmol, 1.76 g | [BH4-].[Na+]
reactant | water | 200 ml | O | H2O
reactant | hydrochloric acid | 1N, 70 ml | Cl | ClH
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 9-Hydroxy-9H-indeno[1,2-b]pyrazine-2,3(1H,4H)-dione | 4.59 g, 91% | OC1C=2C=CC=CC2C=2NC(C(NC21)=O)=O | C11H8N2O3
